US09126969B2
A suspension of 2.3 g of (3-{6-fluoro-2-[4-nitro-1-(tetrahydropyran-2-yl)-1H-pyrazol-3-yl]-3H-benzimidazol-5-yloxy}propyl)dimethylamine in 40 mL of methanol and 0.2 g of palladium-on-charcoal is hydrogenated under 1 bar of hydrogen pressure at ambient temperature for 18 hours. The reaction medium is filtered through celite and the filtrate is concentrated under reduced pressure in a rotary evaporator. 2.0 g of 3-[6-(3-dimethylaminopropoxy)-5-fluoro-1H-benzimidazol-2-yl]-1-(tetrahydropyran-2-yl)-1H-pyrazol-4-ylamine are obtained in the form of a brown solid. 1H NMR (300 MHz, DMSO-d6, δ in ppm): 1.46 to 2.21 (m, 8H); 2.17 (s, 6H); 2.40 (t, J=7.0 Hz, 2H); 3.63 (m, 1H); 3.95 (m, 1H); 4.08 (m, 2H); 4.92 (broad s, 2H); 5.32 (dd, J=2.5 and 10.0 Hz, 1H); from 7.01 to 7.47 (m, 2H); 7.31 (s, 1H); 12.55 (m, 1H).

reactant | (3-{6-fluoro-2-[4-nitro-1-(tetrahydropyran-2-yl)-1H-pyrazol-3-yl]-3H-benzimidazol-5-yloxy}propyl)dimethylamine | 2.3 g | FC=1C(=CC2=C(N=C(N2)C2=NN(C=C2[N+](=O)[O-])C2OCCCC2)C1)OCCCN(C)C | C20H25FN6O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 40 mL | CO | CH4O
catalyst | palladium-on-charcoal | 0.2 g | [Pd] | Pd
product | 3-[6-(3-dimethylaminopropoxy)-5-fluoro-1H-benzimidazol-2-yl]-1-(tetrahydropyran-2-yl)-1H-pyrazol-4-ylamine | 2.0 g | CN(CCCOC=1C(=CC2=C(NC(=N2)C2=NN(C=C2N)C2OCCCC2)C1)F)C | C20H27FN6O2
